US05849921
1-(4-Chlorophenyl)-1-(4-methyl-5-thiazolyl)methanol
4-Methyl-5-trimethylsilylthiazole (3 g), 4-chloro-benzaldehyde (4.9 g) and caesium fluoride (2.7 g) in dry tetrahydrofuran (150 ml) were heated under reflux for 30 hours. The mixture was cooled, evaporated to dryness and the residue thus obtained was purified by flash chromatography to afford the title compound. M.p. 133.5°-134.5° C.

reactant | 4-Methyl-5-trimethylsilylthiazole | 3 g | CC=1N=CSC1[Si](C)(C)C | C7H13NSSi
reactant | 4-chloro-benzaldehyde | 4.9 g | ClC1=CC=C(C=O)C=C1 | C7H5ClO
reactant | caesium fluoride | 2.7 g | [F-].[Cs+]
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | 1-(4-Chlorophenyl)-1-(4-methyl-5-thiazolyl)methanol | ClC1=CC=C(C=C1)C(O)C1=C(N=CS1)C | C11H10ClNOS
